US07855220B2
At 0° C., 4-acetamidonaphthalene-1-sulfonic acid (5 g, 19 mmol) was slowly added to chlorosulfonic acid (25 ml). The mixture was allowed to warm to RT over 30 minutes and then stirred for 2 h. After slowly adding the reaction mixture to ice water, a fine yellow precipitate formed which was filtered, washed with water and dried under vacuum to give 4-acetamidonaphthalene-1-sulfonyl chloride (4.73 g, 87%). LC/MS (10-99% CH3CN), M/Z: M+1 obs=284.0; tR=3.06 min.

reactant | 4-acetamidonaphthalene-1-sulfonic acid | 19 mmol, 5 g | C(C)(=O)NC1=CC=C(C2=CC=CC=C12)S(=O)(=O)O | C12H11NO4S
reactant | chlorosulfonic acid | 25 ml | ClS(=O)(=O)O | ClHO3S
product | 4-acetamidonaphthalene-1-sulfonyl chloride | 4.73 g, 87% | C(C)(=O)NC1=CC=C(C2=CC=CC=C12)S(=O)(=O)Cl | C12H10ClNO3S
